data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,1191,"CC(=O)[O-].CC(=O)[O:1][C:2](C)(O[S+](CC1(O)CC(C)C(CO[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)=CC1(C)CCCO[Si](C)(C)C(C)(C)C)C1=CC=CC=C1)[O-:3].[Na+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8661,"CC[O:1][C:2](C)(C)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8091,"CC=CC[B:1]1OC(C(=O)OC(C)C)C(C(=O)OC(C)C)O1.CCCCCCCC(OC(=O)C(COCC1=CC=CC=C1)NC(=O)OC(C)(C)C)C(C)C=[O:2]|(2, 1)"
train,pmechdb_split_0,0,5757,"CC[C:1](=[CH:2]C)[O-:3].[Br:4][Br:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,7847,"CC([NH2+]CCC1=CC(O)=C(O)C=C1)[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1809,"C[CH2:1][Cl+:2][Al-]([Cl])([Cl])[Cl]|((1, 2), 2)"
train,pmechdb_split_0,0,5844,"CC1(C)OC2C[N+:1]34CCCC3[CH:2]4C2O1.CS(=O)(=O)[O-].[Cl-:3].[Li+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,666,"CCN=C=NCCC[N+:1](C)(C)[H:2].CC[N:3]=C(NCCCN(C)C)OC([O-])(CNC(=O)OCC1C2=C(C=CC=C2)C2=C1C=CC=C2)NC1=CC=C(Cl)C=C1I|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5846,"CC1=CC=C(S(=O)(=O)[O:1][H:2])C=C1.ClC1=CC=CC(Cl)=C1NC1=C(C[OH:3])C=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9804,"Br[C:1]1=[CH:2]C=CC=C1.C[CH+:3]C|((1, 2), 3)"
train,pmechdb_split_0,0,8668,"CC(C)(C)[S:1](N1CCCCC1)([O-:2])[Cl:3].CC[NH+](CC)CC|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4662,"CS(=O)(=O)C1=CC=C(C2=NC=C([NH2:1])N=C2)C=C1.O.O=S(=O)([O-])[O-].[N:2]#[O+:3].[Na+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1821,"C[C+:1]=O.O[C:2]1=[CH:3]C=CC=C1|((2, 3), 1)"
train,pmechdb_split_0,0,7474,"COP(=O)(OC)[CH2:1][CH2:2][O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,992,"CCC(C)(C(C)O)[O+:1](CC)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4880,"CC(C[N+](=O)[O-])[O-:1].CC[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2143,"C1=CC=CC=C1.CC(=O)[O:1][H:2].CC1=CCC(C)([O-:3])[NH+]1CCOCCO.O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2632,"CCO[C:1](C)=[O+:2][Al-:3]([CH2]C(C)C)([CH2]C(C)C)[H:4]|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,6026,"CC[CH:1](C)[Br:2].COC(=O)[CH:3]=[C:4](C)[O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2991,"CC1(C)N(CC2=CC=CC=C2)[C:1](C)(C)[C:2](O)([O-:3])[C:4]1=[O:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4305,"C1=CC=NC=C1.CC1=CC=C([S:1](=O)(Cl)=[O:2])C=C1.CCN(CC)C1=CC2=C(C=C1)C=C(C(=O)C1=CC=C(N3CC[NH:3]CC3)C=C1)O2|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6050,"CC(=O)[O:1][H:2].CC1(C)C2CC3=C(CC([N+]4=CC=CC=C4)C(C4=C(F)C=CC=C4)([O-:3])[NH2+]3)C1C2.O.[I-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2666,"O=[N+:1]=[O:2].O=[N+]([O-])C1=CC=C[CH:3]=[CH:4]1|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,7876,"CC[O-:1].C[C:2]([CH2:3][H:4])=[O:5]|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,3219,"CC1CC2OC(C)(C)OCC23C(C[O-:1])CCCC3C1(C)C1CC2CCOC2O1.S=[C:2]=[S:3].[H][H].[Na+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,340,"NC=[O:1].[Cl][Ti:2]([Cl])([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,685,"CCCOC(=O)C[N-:1]N=N[P+:2](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[OH3+]|(1, 2)"
train,pmechdb_split_0,0,8640,"C1=CC=NC=C1.C1=CC=[NH+]C=C1.CC(=O)O[I:1]1(OC(C(OCC2=CC=CC=C2)C(C=CC2=CC=CC=C2)O[Si](C)(C)C(C)(C)C)C2(C(=O)OC(C)(C)C)OC3(CCCC3)OC2C(=O)OC(C)(C)C)([O:2]C(C)=O)OC(=O)C2=C1C=CC=C2.CC(=O)[O-]|((1, 2), 2)"
train,pmechdb_split_0,0,6602,"CCOCC.O.O=S(=O)([O-])O.OC1=CC=C(CC(C2=C(O)C=C(O)C=C2O)=[O+:1][H:2])C=C1.[NH3:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2281,"CC(O)C[CH:1](C1([S:2]C2=CC=CC=C2)CCOCC1)[OH2+:3].CC1=CC=C(S(=O)(=O)[O-])C=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1718,"CC1C[C:1](=[N:2][O:3][C:4](C(F)(F)F)=[OH+:5])[C:6]2(C)C3=CCC4CC(O)CCC4(C)C3CCC12C.O=C([O-])C(F)(F)F|((1, 6), 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,1636,"CCOC(=O)[CH:1]=[C:2](OCC)[O-:3].CCO[C:4](=[O:5])[CH:6]=[CH:7]C1=CC=CC=C1.CO.C[OH+][Na]|(3, 2);((2, 1), 7);((7, 6), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5993,"CC#CC(C)(C)[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2168,"CCC(C)[O-:1].[Li+:2]|(1, 2)"
train,pmechdb_split_0,0,4273,"COC(=O)CCC(C(C)=O)C(C)[CH:1]=[O:2].O=C([O-])O.[NH3:3].[NH4+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9643,"CC(C)[NH+]([Li-][O+:1](S(=O)(=O)C(F)(F)F)[C:2]1=[C-:3]C=CC=C1)C(C)C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8042,"CN(C)[C+:1]1C(Br)=C[C:2](Br)([H:3])[CH:4]=[CH:5]1.[Br-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,4731,"CC[O:1][CH:2](C)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3583,"C[N:1](C)[CH:2]=[S:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1541,"CCNC(O)(CC#N)[NH:1]C.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4349,"CC[OH:1].[H:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4353,"C=CCC1C2(C)C=CC1(C)C(O)([O:1]C)CC2.CC1=CC=C(S(=O)(=O)[O:2][H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4723,"CCC(=O)N[C:1]1=[C:2](Br)[CH:3]=[CH:4]C=C1.[Br:5][Br:6]|((1, 2), 3);((3, 4), 5);((5, 6), 6)"
